US07425634B2
(3e) (3-methyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridin-2-yl)methanol
The (3-methyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridin-2-yl)methyl acetate (1.19 g, 3.68 mmol) obtained in the step (3d) was mixed with a 1N aqueous sodium hydroxide solution (5 ml) and methanol (10 ml). The mixture was stirred at room temperature for 3 hours and concentrated under reduced pressure. The residue was suspended in tetrahydrofuran and sodium sulfate was added to the suspension, and filtered. The filtrate was concentrated under reduced pressure. The residue was dissolved in a solution mixture containing heptane and ethyl acetate at a ratio of 2:1 and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=2/1) to obtain the title compound (0.88 g, 85%) as a colorless oil.

reactant | (3-methyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridin-2-yl)methyl acetate | 3.68 mmol, 1.19 g | C(C)(=O)OCC1=NC=CC(=C1C)OCCC1(OCCO1)CCC | C17H25NO5
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (3-methyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridin-2-yl)methanol | 0.88 g, 85% | CC=1C(=NC=CC1OCCC1(OCCO1)CCC)CO | C15H23NO4
